US04268510
A suspension of powdered 3,4-dihydro-4-oxo-2-trichloromethyl-2H-benzo[e]-[1,3]-oxazine-6-carbonyl chloride (5.0 g.) in n-butanol (100 ml.) was heated on a steam bath for 30 minutes. The solution was cooled to ambient temperature, and the solvent was evaporated under reduced pressure. The sticky solid residue was triturated with petroleum ether (b.p. 60°-80° C.), filtered, washed with petroleum ether and crystallised from n-butanol to give butyl 3,4-dihydro-4-oxo-2-trichloromethyl-2H-benzo[e]-[1,3]-oxazine-6-carboxylate, m.p. 134°-136° C.

reactant | 3,4-dihydro-4-oxo-2-trichloromethyl-2H-benzo[e]-[1,3]-oxazine-6-carbonyl chloride | 5.0 g | O=C1NC(OC2=C1C=C(C=C2)C(=O)Cl)C(Cl)(Cl)Cl | C10H5Cl4NO3
solvent | n-butanol | 100 ml | C(CCC)O | C4H10O
product | butyl 3,4-dihydro-4-oxo-2-trichloromethyl-2H-benzo[e]-[1,3]-oxazine-6-carboxylate | O=C1NC(OC2=C1C=C(C=C2)C(=O)OCCCC)C(Cl)(Cl)Cl | C14H14Cl3NO4
